US07476666B2
Step 2: 3-Benzyloxy-5-(4-fluorobenzyl)-N-methyl-6-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide
The title compound was prepared from methyl 3-benzyloxy-5-(4-fluorobenzyl)-6-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate using a procedure similar to that described in Example 5, Step 3, except that methylamine (2M in MeOH) was used in place of 4-fluorobenzylamine, and the reaction was heated to reflux overnight. The solvent was removed in vacuo, and the material was used without purification. ES MS (M+1)=423.

reactant | methyl 3-benzyloxy-5-(4-fluorobenzyl)-6-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(C(C2)C)CC2=CC=C(C=C2)F)=O)C(=O)OC | C23H22FN3O4
reactant | methylamine | 2M | CN | CH5N
product | 3-Benzyloxy-5-(4-fluorobenzyl)-N-methyl-6-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(C(C2)C)CC2=CC=C(C=C2)F)=O)C(=O)NC | C23H23FN4O3
